US08754229B2
Preparation of methyl 4-amino-6-(4-chlorophenyl)-3-methoxypicolinate (Compound 7)
To a solution of methyl 4-amino-6-bromo-3-methoxypicolinate (prepared as in Fields, S. C. et al. U.S. Pat. No. 6,297,197 B1, Oct. 2, 2001; 500 mg, 1.9 mmol) in a 1:1 mixture of DME (4.5 mL) and H2O (4.5 mL) was added 2-(4-chlorophenyl)-1,3,2-dioxaborinane (561 mg, 2.7 mmol), CsF (288 mg, 1.9 mmol) and PdCl2(PPh3)2 (26 mg, 0.1941 mmol). The reaction was heated at 110° C. in a CES microwave for 20 min. The reaction mixture was cooled to ambient temperature and diluted with CH2Cl2, then washed with water, satd aq NaHCO3 and satd aq NaCl. The organic layer was dried with Na2SO4 and filtered. The solvent was removed in vacuo. The residue was purified by normal phase chromatography (eluting with 5% Et2O in CH2Cl2 with 0.05% acetic acid (HOAc)) to afford the title compound as a brown oil (245 mg, 44%): 1H NMR (300 MHz, CDCl3) δ 7.90-7.81 (m, 2H), 7.46-7.36 (m, 2H), 7.12 (s, 1H), 4.56 (s, 2H), 4.01 (s, 3H), 3.92 (s, 3H), ESIMS m/z 291 ([M−H]−).

reactant | methyl 4-amino-6-bromo-3-methoxypicolinate | NC1=C(C(=NC(=C1)Br)C(=O)OC)OC | C8H9BrN2O3
reactant | DME | 4.5 mL | COCCOC | C4H10O2
reactant | 2-(4-chlorophenyl)-1,3,2-dioxaborinane | 2.7 mmol, 561 mg | ClC1=CC=C(C=C1)B1OCCCO1 | C9H10BClO2
reactant | CsF | 1.9 mmol, 288 mg | [F-].[Cs+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 0.1941 mmol, 26 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | 4.5 mL | O | H2O
product | methyl 4-amino-6-(4-chlorophenyl)-3-methoxypicolinate | 245 mg, 44% | NC1=C(C(=NC(=C1)C1=CC=C(C=C1)Cl)C(=O)OC)OC | C14H13ClN2O3
